Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
Penicillins
 
Attending: ___.
 
Chief Complaint:
left eye droop
 
Major Surgical or Invasive Procedure:
lumbar puncture- ___

 
History of Present Illness:
Patient is a ___ year old right handed woman with past medical
history of ADHD, DMII, and depression whom presents for
evaluation of acute onset left eyelid ptosis. 

Patient begins by explaining that last week she was admitted to
___ for evaluation of acute onset of light
headedness, dizziness, and in coordination.  Patient's dizziness
looks to be vertigo with sensation that room is spinning around
her and her in coordination looks to be a difficulty with gait.
Patient reports she had MRI without contrast and CTA which were
normal.  Patient was diagnosed with a vestibular neuritis and 
was
discharged with meclizine.  Patient reports her light headedness
and dizziness improved with the meclizine, but her in
coordination has persisted. 

Patient reports that this morning she awoke and noticed a left
sided eye lid droop.  Patient confirmed this with her mother.
Patient denies change in vision and that she has painful eye
movements. Patient denies double vision.  Patient went to her
primary care physician whom told her she needed to come here.
Patient's physician told her that she was concerned because
patient had eyelid ptosis, nystagmus, and there was concern for
decreased patellar reflexes.  There was also ongoing concern for
her difficulty with walking. 

Patient denies illness for atleast the last six months and
received her influenza vaccination in ___ or ___. 

Review of systems: 
General:Negative for weight loss, loss of appetite, night sweats
Head:Negative for irritation or exudate from eyes, nose, throat 
Neck:Negative for sensation of pain with flexion and extension 
Heart:Negative for palpitations and chest pain with exertion 
Lungs:Negative for labored breathing or pain with breathing 
Abdomen:Negative for tenderness/distension, 
constipation/diarrhea
Skin:Negative for new changes in skin pigmentation, rashes
Endocrine:Negative for polydipsia/polyuria
Hematologic:Negative for easy bruising or bleeding diathesis
Neurologic:Negative for focal change in strength/sensation
Psychiatric:Negative for mania/depression, suicidal ideation

 
Past Medical History:
Past medical history: 
DMII, reports well controlled, last A1C 6.7 last month
ADHD 
Depression 
Insomnia 
DCIS s/p lumpectomy, XRT; did not tolerate tamoxifen

Past surgical history: 
Patient had atrial septal defect closed ___ years ago.  Patient
has a certificate that states that the implanted device is MRI
compatible. 
 
Social History:
___
Family History:
no neurologic illness; does have family history of breast cancer
 
Physical Exam:
ADMISSION EXAM: 
===============

General examination: 
General: Comfortable and in no distress 
Head: No irritation/exudate from eyes, nose, throat 
Neck: Supple with no pain to flexion or extension 
Cardio: Regular rate and rhythm, warm, no peripheral edema 
Lungs: Unlabored breathing 
Abdomen: Soft, non tender, non distended 
Skin: No rashes or lesions 

Neurologic examination:
Mental status: 
Patient is alert and oriented to location and date.  Patient
attentive and can perform months of the year backwards quickly
and without error.  Patient with no difficulty naming low
frequency objects and with repetition. Patient with left right
differentiation.  Patient can perform multi step tasks.  

Cranial nerves: 
Patient with no visual field cut.  Pupils are equal, round, and
reactive to light.  There is no evidence of mydriasis of the 
left
pupil.  Pupils are midline without evidence of strabismus. 
Smooth
pursuit.  There is a non extinguishing end gaze nystagmus with
leftward gaze.  This is not present with rightward gaze.  There
is no nystagmus with eye fixation.  There is left eyelid ptosis
that is non fatiguable.  No right eyelid ptosis.  No proptosis.
Facial sensation intact.  Face symmetric.  Hearing intact. 
Palate elevates symmetrically.  SCM ___.  Tongue midline and 
with
strong movement to left and right. 

Motor examination: 
Normal bulk and tone.  Patient non fatiguable with deltoid 
pumps.
No adventitial movements. Power is full in the upper and lower
extremities.  There is no asymmetry in strength.  

Sensory examination: 
Patient reports symmetric sensation of crude touch in upper and
lower extremities. 

Reflexes: 
Biceps and triceps reflexes are normal.  Brachioradialis 
reflexes
could not be obtained.  Patellar reflexes asymmetric. The left
one can be obtained with strike of hammer, but the right one
requires Jendrassik maneuver.  Ankle reflexes present.  Plantar
reflex is flexor. 

Gait: 
Wide based gait with short steps. 

DISCHARE EXAM: 
==============

General: Comfortable and in no distress 
Neck: Supple with no pain to flexion or extension 
Cardio: wwp
Lungs: breathing comfortably on RA 
Skin: erythematous, scaly, geometrically square shaped plaques 
upper chest, L inframammary region, bilateral upper and 
bilateral lower extremities 

Neurologic examination:

Mental status: 
Awake and alert, able to have an appropriate conversation and
provides linear history. She can perform complex commands.  

Cranial nerves: 
Pupils are equal, round, and reactive to light (3>2 mm
bilaterally, brisk).  There is no evidence of mydriasis of the
left pupil. Left eye slightly
esotropic. There is left eyelid ptosis that is non fatiguable
(covering approximately ___ of pupil). No right eyelid ptosis.
Reports diplopia on primary gaze and in
right upgaze (only intermittent, not reported ___ as well as 
left gaze and upgaze. Left gaze nystagmus
nearly absent now with some provocation on upgaze (more coarse 
nystagmus in the left eye). Convergence intact. Fields full. No 
facial droop but NLF deeper and higher on left, face sensation 
intact.

*no improvement in ptosis with ice pack, no worsening diplopia 
on
prolonged upgaze 

Motor examination:  High frequency, low amplitude tremor of arms
when outstretched, unchanged.  No drift, upper ext delta, tric, 
biceps full, lower ext IP full. 

Coordination: 
Slight intention tremor with FNF bilaterally. Slight dysmetria 
on finger
tap L>R. Improved from admission. 

Gait: 
Wide based gait with short steps, cautious. Requires 
approximately 3 steps to turn. 

 
Pertinent Results:
LABS: 
=====

___ 08:20PM URINE  HOURS-RANDOM
___ 08:20PM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG oxycodn-NEG mthdone-NEG
___ 08:20PM URINE  COLOR-Straw APPEAR-Clear SP ___
___ 08:20PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.5 
LEUK-NEG
___ 04:26PM   GLUCOSE-87 UREA N-10 CREAT-0.8 SODIUM-138 
POTASSIUM-4.3 CHLORIDE-97 TOTAL CO2-22 ANION GAP-19*
___ 04:26PM   estGFR-Using this
___ 04:26PM   ALT(SGPT)-30 AST(SGOT)-24 ALK PHOS-65 TOT 
BILI-0.3
___ 04:26PM   cTropnT-<0.01
___ 04:26PM   ALBUMIN-4.7
___ 04:26PM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
bnzodzpn-NEG barbitrt-NEG tricyclic-NEG
___ 04:26PM   WBC-7.8 RBC-4.59 HGB-13.5 HCT-38.2 MCV-83 
MCH-29.4 MCHC-35.3 RDW-12.2 RDWSD-37.2
___ 04:26PM   NEUTS-55.9 ___ MONOS-6.4 EOS-1.5 
BASOS-0.9 IM ___ AbsNeut-4.36 AbsLymp-2.73 AbsMono-0.50 
AbsEos-0.12 AbsBaso-0.07
___ 04:26PM   PLT COUNT-283
___ 04:26PM   ___ PTT-26.4 ___

___ 11:16AM BLOOD VitB12-490
___ 04:30AM BLOOD Triglyc-682* HDL-48 CHOL/HD-5.5 
LDLmeas-141*
___ 11:16AM BLOOD TSH-0.86
___ 11:16AM BLOOD RheuFac-<10 ___
___ 11:20AM BLOOD CRP-1.3
___ 03:33PM CEREBROSPINAL FLUID (CSF) TNC-1 RBC-1 Polys-0 
___ ___ 03:33PM CEREBROSPINAL FLUID (CSF) TotProt-50* 
Glucose-87

SJOGREN'S ANTIBODY (SS-A)     <1.0 NEG           
SJOGREN'S ANTIBODY (SS-B)     <1.0 NEG            

ANGIOTENSIN-1-CONVERTING      33 ___ U/L)
ENZYME                                            

SED RATE BY MODIFIED          6 (< OR = 30 mm/h)
___      

CSF CYTOLOGY
=======
___: NEGATIVE FOR MALIGNANT CELLS. 
CSF Gram stain: NO GROWTH. 

IMAGING
=======
CT CHEST W/O CONTRAST: 
1. No evidence of intrathoracic malignancy.
2. 3 mm subpleural left upper lobe nodule, unlikely of clinical 
significance.

CT ABDOMEN/PELVIS W/O CONTRAST: 
1. Mild asymmetric wall thickening of the terminal ileum is 
nonspecific. 
Differential includes chronic inflammation, less likely 
malignancy or active
inflammation.  A nonurgent colonoscopy may be obtained for 
further evaluation
if not previously performed.
2. Two cystic lesions within the left ovary measuring up to 2.7 
x 0.9 cm. If
the patient is postmenopausal consider dedicated pelvic 
ultrasound if not
previously performed for further characterization.
3. 1.4 cm nodule in the right lower lobe demonstrates 
low-density, and may
represent a pleural based nodule or pulmonary sequestration.  
Please refer to
separate report of CT chest performed on the same day for 
description of the
thoracic findings
4. Diverticulosis without evidence of diverticulitis.

MR HEAD W/ AND W/O CONTRAST: 
Notable for suspected small chronic right cerebellar lacunar 
infarct. 
No acute intracranial infarct, mass or hemorrhage.  The orbits 
appear
normal.  No lesion seen along the course of the third cranial 
nerves. The cavernous sinuses are unremarkable. No evidence of 
abnormal mass or enhancement within the cerebellopontine angle 
or interpeduncular cisterns. Mild periventricular and deep white 
matter changes are most likely sequela of microangiopathy.  

Noncontrast head CT:
No acute intracranial process.
 
CTA head and neck:
Patent intracranial and cervical vasculature without dissection
or aneurysm greater than 3 mm.

CT Torso
1. Mild asymmetric wall thickening of the terminal ileum is 
nonspecific.  
Differential includes chronic inflammation, less likely 
malignancy or active 
inflammation.  A nonurgent colonoscopy may be obtained for 
further evaluation 
if not previously performed. 
2. Two cystic lesions within the left ovary measuring up to 2.7 
x 0.9 cm. If 
the patient is postmenopausal consider dedicated pelvic 
ultrasound if not 
previously performed for further characterization. 
3. 1.4 cm nodule in the right lower lobe demonstrates 
low-density, and may 
represent a pleural based nodule or pulmonary sequestration.  
Please refer to 
separate report of CT chest performed on the same day for 
description of the 
thoracic findings 
4. Diverticulosis without evidence of diverticulitis. 
  

1. No evidence of intrathoracic malignancy. 
2. 3 mm subpleural left upper lobe nodule, unlikely of clinical 
significance. 

+ Pelvic u/s
Two small cysts in the left ovary.  One demonstrates a sediment 
layer likely 
due to prior bleeding.  Neither cyst demonstrates worrisome 
sonographic 
features. 

 
Brief Hospital Course:
Patient is a ___ year old right handed woman with past medical 
history of ADHD, DMII, DCIS s/p lumpectomy and depression whom 
presents for evaluation of acute onset left eyelid ptosis, 
diplopia, vertigo and gait disturbances. 

#Bilateral partial ___ nerve palsy
#Ataxia
#Vertigo
She initially had acute onset gait instability, room spinning 
sensation, hiccups and oscillopsia and was evaluated at another 
hospital with a negative MRI. She was diagnosed with vestibular 
neuritis. Then, she developed acute onset left eyelid ptosis. 
Her exam was notable for bilateral cranial ___ nerve palsies 
with pupil sparing, left eyelid ptosis and cerebellar findings 
(dysmetria L>R, impaired DDK, broad based cautious gait) without 
proprioceptive findings. Localization was thought to be 
brainstem and cerebellum. The differential diagnosis for her 
symptoms included both central and peripheral processes to 
explain what appeared to be simultaneous involvement of multiple 
cranial nerves (CNVIII, partial CNIII). CT head w/o contrast and 
CTA were negative for acute intracranial processes, dissections 
or aneurysms. While her symptoms initially raised concern for 
lateral medullary syndrome, an MR head w/ and w/o contrast was 
notable only for an incidental finding of a possible chronic R 
cerebellar lacunar infarct and was otherwise negative for signs 
of acute ischemic event. She was however started on aspirin 81 
mg. She was not started on a statin due to an allergy. 
Additionally, the patient reported she had possible "afib" on a 
EMS rhythm strip at ___, but the EKG sent to us was 
sinus rhythm with PVCs. No atrial fibrillation documented during 
her hospital stay. Therefore, without further corroborating 
evidence, anticoagulation is not warranted at this time. She had 
a history of breast cancer (DCIS which is s/p lumpectomy and 
radiation with ___ in ___ which was unremarkable), so this 
raised question of anti-Yo, ___ or other paraneoplastic syndrome. 
Initial LP results with only 1 wbc and protein of 50. 
Autoimmune/ paraneoplastic panel pending. CT Torso showed cystic 
structures in left ovaries but pelvic ultrasound revealed these 
were benign. Other malignancies were considered, but LP was 
negative for malignant cells. In investigation other etiologies, 
inflammatory workup (RF, ESR, CRP, Sjogren's antibodies, ACE) as 
well as nutritional workup (B12) were all negative. GBS variant 
was also considered but her symptoms did not progress and 
slightly improved; reflexes were intact. Ati-Gq1b for ___ 
___ variant was also sent and pending at time of discharge. 
At this time, the leading theory is an autoimmune/inflammatory 
process; however, given her stability and slight improvement and 
no clear evidence, we held off on treatment with IVIG or PLEX 
and will have her follow-up with neurology as an outpatient. She 
was discharged to acute rehab for further ___.

#Ovarian cysts
Two L ovarian cysts (largest up to 2.7 x 0.9 cm) were 
incidentally noted. Given patient's history of hysterectomy and 
neurological symptoms raising concern for paraneoplastic 
syndrome, patient was ordered for transvaginal pelvic ultrasound 
which showed no worrisome sonographic features in either cyst. 

#Chronic right cerebellar infarct
Started on aspirin 81 mg daily. LDL >70, but she has an allergy 
to statin. Blood sugars optimized. She will have follow-up with 
neurology for consideration of further work-up of this as an 
outpatient.

#Contact dermatitis due to EKG leads
Evaluated by dermatology. Given Rx for hydrocortisone 2.5% for 7 
days.

Transitional Issues:
====================
#NEW MEDICATIONS: aspirin 81 mg daily (possible chronic stroke)
- Incidental pulmonary nodule: Recommend outpatient follow-up 
with consideration of repeat imaging 
- Incidental finding of nonspecific wall thickening of terminal 
ileum on CT A/P, no need for further evaluation during this 
admission. Recommend non-urgent colonoscopy as outpatient. 
- Follow-up paraneoplastic panel at outpatient f/u
- Please refer to neurology as an outpatient for further 
monitoring of her neurologic symptoms
- Elevated LDL with statin allergy 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Meclizine 12.5 mg PO Q8H:PRN dizziness 
2. MethylPHENIDATE (Ritalin) 10 mg PO BID 
3. Trulicity (dulaglutide) 1.5 mg/0.5 mL subcutaneous 1X/WEEK 
4. TraZODone 150 mg PO QHS:PRN sleep 
5. Ondansetron 4 mg PO Q8H:PRN nausea 
6. BuPROPion XL (Once Daily) 300 mg PO DAILY 

 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY  
2.  Hydrocortisone Cream 2.5% 1 Appl TP BID 
RX *hydrocortisone 2.5 % Appl twice a day Refills:*0 
3.  BuPROPion XL (Once Daily) 300 mg PO DAILY  
4.  Meclizine 12.5 mg PO Q8H:PRN dizziness  
5.  MethylPHENIDATE (Ritalin) 10 mg PO BID  
6.  Ondansetron 4 mg PO Q8H:PRN nausea  
7.  TraZODone 150 mg PO QHS:PRN sleep  
8.  Trulicity (dulaglutide) 1.5 mg/0.5 mL subcutaneous 1X/WEEK  
9.rolling walker
ICD-10 G11.0
Dx: ataxia
Rolling walker 
Length of need: ongoing
10.Outpatient Physical Therapy
ICD-10 G11.0
Dx: ataxia
Outpatient ___ rehab
Length of need: ongoing

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
bilateral third nerve palsy
ataxia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to the hospital due to drooping of your left 
eye. While you were in the hospital you had imaging of your 
brain which showed you did not have a new stroke and you did not 
have inflammation of your brain that could be seen with an MRI. 
The MRI showed a possible old very small stroke in your 
cerebellum (balance ___ your brain). For this, you were 
started on an a baby aspirin.

You underwent a lumbar puncture to test your spinal fluid, which 
did not show signs of infection or cancer. 

You also underwent a CT scan of your chest, belly and pelvis. 
Your chest CT showed a small lung nodule, which should be 
followed up with repeat imaging as an outpatient. The CT scan of 
your belly and pelvis showed some evidence of inflammation in 
your ileum (a part of your small intestines), which can be 
followed up with a non-urgent colonoscopy as an outpatient. We 
also found two cystic lesions in your left ovary, so we 
performed a pelvic ultrasound to better assess these. This 
showed that the cysts were not cancer. 

You still have blood work and spinal fluid which is being tested 
for inflammatory diseases. This will take some time to return 
and you will follow-up with neurology for these results. 

Please follow-up with your doctors ___ below). Please take 
your medicines as prescribed (see medication list).

Please call your doctor or seek emergent medical attention if 
you have any worsening of your current symptoms or any new 
symptoms such as weakness, numbness/tingling, difficulties 
speaking or understanding speech.

We wish you the best,
Your ___ Team 
 
Followup Instructions:
___